US07301032B2
500 mg of 5-chloro-3-methylthio-1,2,4-thiadiazole and 122 mg of {1,1′-bis(diphenylphosphino)ferrocene} dichloro palladium(II) dichloromethane complex were dissolved in 6 ml of tetrahydrofuran under nitrogen atmosphere, 6.58 ml of solution of cyclohexyl zinc bromide in tetrahydrofuran (0.5 mol/l) was added thereto under ice-cooling taking for about 5 minutes, and the reaction mixture was stirred for 16 hours at room temperature. Then, the reaction mixture was concentrated, and the residue subjected to silica gel column chromatography to give 370 mg of 3-methylthio-5-cyclohexyl-1,2,4-thiadiazole.

reactant | 5-chloro-3-methylthio-1,2,4-thiadiazole | 500 mg | ClC1=NC(=NS1)SC | C3H3ClN2S2
reactant | cyclohexyl zinc bromide | [Br-].C1(CCCCC1)[Zn+]
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.5 mol/l | O1CCCC1 | C4H8O
product | 3-methylthio-5-cyclohexyl-1,2,4-thiadiazole | 370 mg | CSC1=NSC(=N1)C1CCCCC1 | C9H14N2S2
